US08492378B2
N-[4-[5-[(3-cyanobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-pyridyl]-3-phenylpropionamide
In the same manner as in Example 1 and using N-[4-(5-mercapto-1,3,4-oxadiazol-2-yl)-2-pyridyl]-3-phenylpropionamide instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and 3-(bromomethyl)benzonitrile instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 36%) was obtained as colorless crystals.

reactant | N-[4-(5-mercapto-1,3,4-oxadiazol-2-yl)-2-pyridyl]-3-phenylpropionamide | SC1=NN=C(O1)C1=CC(=NC=C1)NC(CCC1=CC=CC=C1)=O | C16H14N4O2S
reactant | 3-(bromomethyl)benzonitrile | BrCC=1C=C(C#N)C=CC1 | C8H6BrN
product | N-[4-[5-[(3-cyanobenzyl)thio]-1,3,4-oxadiazol-2-yl]-2-pyridyl]-3-phenylpropionamide | yield 36% | C(#N)C=1C=C(CSC2=NN=C(O2)C2=CC(=NC=C2)NC(CCC2=CC=CC=C2)=O)C=CC1 | C24H19N5O2S
